US04182776
Ethyl p-{[2-(2-naphthyloxy)ethyl]amino}benzoate
A mixture of 18.7 g of 2-(2-naphthyloxy)ethanol O-methanesulfonate and 23.6 g of ethyl p-aminobenzoate is heated in 300 ml of hexamethylphosphoramide at 110° C. for 16 hours. The mixture is cooled, diluted with water, and worked up as described in Example 3 to give the crystalline product. Recrystallization from ethanol gives crystals, mp 158°-162° C.

reactant | 2-(2-naphthyloxy)ethanol O-methanesulfonate | 18.7 g | CS(=O)(=O)OCCOC1=CC2=CC=CC=C2C=C1 | C13H14O4S
reactant | ethyl p-aminobenzoate | 23.6 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | hexamethylphosphoramide | 300 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | Ethyl p-{[2-(2-naphthyloxy)ethyl]amino}benzoate | C1=C(C=CC2=CC=CC=C12)OCCNC1=CC=C(C(=O)OCC)C=C1 | C21H21NO3
